US07521455B2
(1) Manufacture of 4-[3-(1-pyrrolidinyl)propoxy]aniline
The target compound was obtained by the method according to Example 18, using 3-pyrrolidin-1-yl-propan-1-ol, and 4-nitrophenol or 1-fluoro-4-nitrobenzene as starting materials.

reactant | 3-pyrrolidin-1-yl-propan-1-ol | N1(CCCC1)CCCO | C7H15NO
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 4-[3-(1-pyrrolidinyl)propoxy]aniline | N1(CCCC1)CCCOC1=CC=C(N)C=C1 | C13H20N2O
